US08232312B2
2,2,2-trifluoro-1-(6-nitro-1H-indol-3-yl)-ethanone
2.5 g 6-nitro-1H-indole are dissolved in 10 ml dimethylformamide. 5 ml trifluoroacetic anhydride are added thereto and the mixture is heated to 60° C. for 3 hours. Then the mixture is diluted with ethyl acetate and the organic phase is washed with saturated sodium hydrogen carbonate solution and with saturated sodium chloride solution. After drying with magnesium sulphate the solvents are eliminated in vacuo and the residue is extracted from dichloromethane.

reactant | 6-nitro-1H-indole | 2.5 g | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | trifluoroacetic anhydride | 5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2,2-trifluoro-1-(6-nitro-1H-indol-3-yl)-ethanone | FC(C(=O)C1=CNC2=CC(=CC=C12)[N+](=O)[O-])(F)F | C10H5F3N2O3
